US04018802
Step D. Preparation of 8-methylsulfonyl-11-(1-hydroxycyclohexyl)-10-undecynoic acid
The synthesis of this compound is carried out by the procedure of Example 3, Step E, except that methyl 8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent quantity of methyl 8-methylsulfonyl-11-(1-acetoxycyclohexyl)-10-undecynoate.

reactant | methyl 8-methylsulfonyl-12-acetoxyheptadecanoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H40O6S
reactant | methyl 8-methylsulfonyl-11-(1-acetoxycyclohexyl)-10-undecynoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC#CC1(CCCCC1)OC(C)=O | C21H34O6S
product | 8-methylsulfonyl-11-(1-hydroxycyclohexyl)-10-undecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#CC1(CCCCC1)O | C18H30O5S
